US06060462
To the hydrochloride salt prepared above (1.0 g, 5.97 mmol) and hydrocinnamic acid (0.9 g, 5.97 mmol) in DMF (20 mL) was added O-benzotriazole-N,N,N',N'-tetramethyluronium hexafluorophosphate (2.26 g, 5.97 mmol) followed by N,N-diisopropylethylamine (1.69 g, 13.1 mmol). The reaction was stirred at ambient temperature for 48 hours. The reaction mixture was diluted with 1:1 EtOAc:hexane and washed with H2O (2×), HCl (10%) saturated NaHCO3 and brine. The solution was dried (MgSO4), evaporated, and combined with an additional material obtained by the same acylation procedure. The combined batches were purified by flash chromatography on silica gel with 2:1 hexane:EtOAc as the eluent. There was obtained N-2-propyl-N-[(3-phenyl)propionyl]glycine methyl ester (2.8 g); LRMS (M+H)+ =264.0.

reactant | hydrocinnamic acid | 5.97 mmol, 0.9 g | C(CCC1=CC=CC=C1)(=O)O | C9H10O2
reactant | O-benzotriazole-N,N,N',N'-tetramethyluronium hexafluorophosphate | 5.97 mmol, 2.26 g | CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 13.1 mmol, 1.69 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-2-propyl-N-[(3-phenyl)propionyl]glycine methyl ester | 2.8 g | COC(CN(C(CCC1=CC=CC=C1)=O)C(C)C)=O | C15H21NO3
